US07691850B2
Preparation of (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine
Prepared essentially according to the procedure for Example 22, except substituting 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine (143 mg, 0.70 mmole) for 8-ethenyl-4,7-difluoro-2-(methyloxy)-1,5-naphthyridine, and substituting 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (115 mg, 0.70 mmole) for 6-({[(3S)-3-pyrrolidinylmethyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one, the title compound was prepared as an orange hygroscopic solid: LC/MS (ES) m/e 454 (M+H)+; 1H NMR (DMSO, 400 MHz) δ 9.8 (bs, 1H), 8.85 (s, 1H), 8.4 (d, J=5.6 Hz, 1H), 8.33 (d, J=9.1 Hz, 1H), 7.51 (d, J=11.6 Hz, 1H), 7.29 (d, J=9.1 Hz, 1H), 4.5 (m, 3H), 4.25 (s, 2H), 4.1 (s, 3H), 3.8 (m, 1H), 3.7 (m, 2H), 3.6 (m, 2H), 3.5 (m, 2H), 3.25 (m, 2H), 3.1 (s, 2H), 2.85 (m, 2H), 2.25 (m, 1H), 1.8 (m, 1H), 1.3 (s, 1H), 0.8 (m, 1H).

reactant | 8-ethenyl-4,7-difluoro-2-(methyloxy)-1,5-naphthyridine | C(=C)C=1C(=CN=C2C(=CC(=NC12)OC)F)F | C11H8F2N2O
reactant | 6-({[(3S)-3-pyrrolidinylmethyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | N1C[C@H](CC1)CNCC=1C=CC=2OCC(NC2N1)=O | C13H18N4O2
product | (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(CC2)CCC2=C(C=NC1=CC=C(N=C21)OC)F | C24H28FN5O3
